US07528142B2
N-(4-(4-(3-methyl-1H-pyrazol-5-ylamino)-6-chloropyrimidin-2-ylthio)phenyl)cyclopentanecarboxamide
To a solution of 3-methyl-1H-pyrazol-5-amine (160 mg, 1.63 mmol) and N-(4-(4,6-dichloropyrimidin-2-ylthio)phenyl)cyclopentane carboxamide (600 mg, 1.63 mmol) in dimethyl formamide (10 ml) was added diisopropylethylamine (248 mg, 1.96 mmol, 0.34 ml). The mixture was then heated to 80 ° C. for 18 hrs and allowed to cool to rt. EtOAc (40 ml) was added and washed with brine, dried (MgSO4), and concentrated in vacuo. Crude product was then purified by flash chromatography 7:3 EtOAc:hexane EtOAc 5% MeOH:EtOAc to give title compound as an off white solid (431 mg, 62%). 1H NMR (DMSO-d6) 1.50-1.55 (2H, m), 1.61-1.78 (4H, m), 1.79-1.85 (2H, m), 1.90 (3H, brs), 2.72-1.81 (1H, m), 5.21 (1H, brs), 6.46 (1H, brs), 7.52 (2H, d), 7.78 (2H, d), 10.11 (1H, s), 10.18 (1H, brs), 11.95 (1H, brs). ES+ 429.

reactant | 3-methyl-1H-pyrazol-5-amine | 1.63 mmol, 160 mg | CC1=NNC(=C1)N | C4H7N3
reactant | N-(4-(4,6-dichloropyrimidin-2-ylthio)phenyl)cyclopentane carboxamide | 1.63 mmol, 600 mg | ClC1=NC(=NC(=C1)Cl)SC1=CC=C(C=C1)NC(=O)C1CCCC1 | C16H15Cl2N3OS
reactant | diisopropylethylamine | 1.96 mmol, 0.34 ml, 248 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EtOAc | 40 ml | CCOC(=O)C | C4H8O2
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(4-(4-(3-methyl-1H-pyrazol-5-ylamino)-6-chloropyrimidin-2-ylthio)phenyl)cyclopentanecarboxamide | CC1=NNC(=C1)NC1=NC(=NC(=C1)Cl)SC1=CC=C(C=C1)NC(=O)C1CCCC1 | C20H21ClN6OS
